US06693126B2
2-Pyridylcarbinol(0.19 ml, 1.71 mmol) was dissolved in methylene chloride(2 ml), triethylamine(0.59 ml, 4.27 mmol) was added thereto, and the mixture was stirred for 10 minutes at 0° C. Then, methanesulfonyl-chloride(0.26 ml, 3.41 mmol) was added and the resulting mixture was stirred for 10 minutes at the same temperature. The reaction solution was sequentially washed with saturated sodium bicarbonate solution and saturated saline solution, dried over anhydrous sodium sulfate, and concentrated to give 2-(methanesulfonyloxymethyl)pyridine(315 mg).

reactant | 2-Pyridylcarbinol | 1.71 mmol, 0.19 ml | N1=C(C=CC=C1)CO | C6H7NO
reactant | triethylamine | 4.27 mmol, 0.59 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl-chloride | 3.41 mmol, 0.26 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-(methanesulfonyloxymethyl)pyridine | 315 mg | CS(=O)(=O)OCC1=NC=CC=C1 | C7H9NO3S
